US06225316B1
b) 3-Iodo-N-methyl-isonicotinamide
To a solution of 1.36 g (10 mmol) N-methyl-isonicotin-amide in 20 ml tetrahydrofuran and 4.5 ml (30 mmol) N,N,N′,N′-tetramethylethylenediamine at −70° C. were added 25 ml (40 mmol) 1.6 M n-butyl lithium solution in hexane. After stirring for 2 h at −10 to 0° C. a solution of 7.6 g iodine in 20 ml tetrahydrofuran was added dropwise at −70° C. Stirring was continued for 1 h at room temperature and 100 ml saturated sodium thiosulfate solution in water were added. The aqueous layer was separated and washed twice with ethyl acetate. The combined organic layers were washed with 1 N sodium hydroxide solution, brine, dried (magnesium sulfate) and evaporated. The residue was purified by chromatography to give 1.035 g (39%) of the title compound as white crystals. M.p. 132-133° C.

reactant | N-methyl-isonicotin-amide | 10 mmol, 1.36 g | CNC(C1=CC=NC=C1)=O | C7H8N2O
reactant | N,N,N′,N′-tetramethylethylenediamine | 30 mmol, 4.5 ml | CN(CCN(C)C)C | C6H16N2
reactant | n-butyl lithium | 40 mmol, 1.6 M, 25 ml | C(CCC)[Li]
reactant | iodine | 7.6 g | II | I2
reactant | sodium thiosulfate | 100 ml | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 3-Iodo-N-methyl-isonicotinamide | 1.035 g, 39% | IC1=C(C(=O)NC)C=CN=C1 | C7H7IN2O
